US05075306
A mixture of 1 g (3,5 mmol) 6-azido-7-chloro-2,3-dihydroxy-5-nitroquinoxaline and 15 ml xylene was refluxed for 3 h. After cooling to 25° C. the precipitate was filtered off and washed with toluene and ether to give 0,86 g (96%) 4-chloro-7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline-1-oxide, m.p.>300° C. NMR (DMSO-d6): 12.6 (1H, broad s), 12.0 (1H, broad s), 7.10 (1H,s).

reactant | 6-azido-7-chloro-2,3-dihydroxy-5-nitroquinoxaline | 3,5 mmol, 1 g | N(=[N+]=[N-])C=1C(=C2N=C(C(=NC2=CC1Cl)O)O)[N+](=O)[O-] | C8H3ClN6O4
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-chloro-7,8-dihydroxy-1,2,5-oxadiazolo(3,4-f)quinoxaline-1-oxide | 0,86 g, 96% | ClC=1C=2C(C=3N=C(C(=NC3C1)O)O)=[N+](ON2)[O-] | C8H3ClN4O4
